* Z:\home\alowell\pcm3168a_euro1\spice\pmos_switch.asc
V1 N001 0 12
R1 N001 N003 10k
R3 N002 0 100
S1 N004 0 N005 0 MYSW
V2 N005 0 PWL(0 -1 1 -1 1.000001 1 2 1)
C1 N003 0 1000n
M1 N002 N003 N001 N001 FDS6975
R2 N003 N004 1k
R4 N003 0 1Meg
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\alowell\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 3
.model MYSW SW()
.backanno
.end
